### PR TITLE
[Merged by Bors] - refactor: redefine `spectralRadius` in terms of `quasispectrum`

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 1]
```diff
@@ -25,17 +25,39 @@ Theorems specific to *complex* Banach algebras, such as *Gelfand's formula* can
...
 * `spectrum.isOpen_resolventSet`: the resolvent set is open.
-* `spectrum.isClosed`: the spectrum is closed.
+* `spectrum.isClosed`/`quasispectrum.isClosed`: the (quasi)spectrum is closed.
 * `spectrum.subset_closedBall_norm`: the spectrum is a subset of closed disk of radius
   equal to the norm.
-* `spectrum.isCompact`: the spectrum is compact.
-* `spectrum.spectralRadius_le_nnnorm`: the spectral radius is bounded above by the norm.
-
+* `spectrum.isCompact`/`quasispectrum.isCompact`: the (quasi)spectrum is compact.
+* `quasispectrum.spectralRadius_le_nnnorm`: the spectral radius is bounded above by the norm.
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]:
```suggestion
* `spectralRadius_le_nnnorm`: the spectral radius is bounded above by the norm.
```

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean [hunk 2]
```diff
@@ -268,6 +268,19 @@ instance quasispectrum.instZero [Nontrivial R] (a : A) : Zero (quasispectrum R a
...
 
+@[simp]
+lemma quasispectrum_zero {R A : Type*} [Field R] [NonUnitalRing A] [Module R A] :
+    quasispectrum R (0 : A) = {0} := by
+  refine Set.eq_singleton_iff_unique_mem.mpr ⟨quasispectrum.zero_mem R 0, fun r hr => ?_⟩
+  by_contra h
+  exact hr (isUnit_iff_ne_zero.mpr h) (by simp only [smul_zero, neg_zero]; exact ⟨1, rfl⟩)
+
+@[simp]
+theorem quasispectrum.of_subsingleton {R A : Type*} [Field R] [NonUnitalRing A]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]: I think these would work for `Semifield`?
```suggestion
lemma quasispectrum_zero {R A : Type*} [Semifield R] [NonUnitalRing A] [Module R A] :
    quasispectrum R (0 : A) = {0} := by
  refine Set.eq_singleton_iff_unique_mem.mpr ⟨quasispectrum.zero_mem R 0, fun r hr => ?_⟩
  by_contra h
  exact hr (isUnit_iff_ne_zero.mpr h) (by simp only [smul_zero, neg_zero]; exact ⟨1, rfl⟩)

@[simp]
theorem quasispectrum.of_subsingleton {R A : Type*} [Semifield R] [NonUnitalRing A]
```

Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]: In fact (not sure how useful this would be, but...) you can add a lemma for `CommSemiring` where `quasispectrum R (0 : A) = nonUnits R`.

But you'll need to fix `isQuasiregular_zero` to `IsQuasiregular (0 : R)` rather than just `IsQuasiregular 0`.

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 3]
```diff
@@ -403,6 +420,75 @@ end ExpMapping
...
+grind_pattern isCompact_nnreal => IsCompact (quasispectrum ℝ≥0 a)
+
+theorem isClosed (a : A) : IsClosed (quasispectrum 𝕜 a) := by
+  rw [Unitization.quasispectrum_eq_spectrum_inr' 𝕜 𝕜,
+    ← AlgEquiv.spectrum_eq (WithLp.unitizationAlgEquiv 𝕜).symm (a : Unitization 𝕜 A)]
+  exact spectrum.isClosed _
+
+theorem isBounded (a : A) : Bornology.IsBounded (quasispectrum 𝕜 a) := by
+  rw [Unitization.quasispectrum_eq_spectrum_inr' 𝕜 𝕜,
+    ← AlgEquiv.spectrum_eq (WithLp.unitizationAlgEquiv 𝕜).symm (a : Unitization 𝕜 A)]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: you do this several times, and while it is just two rewrites, it might be useful as a lemma?
i.e., `quasispectrum 𝕜 a = spectrum 𝕜 (WithLp.toLp 1 (a : Unitization 𝕜 A))`

**Review by themathqueen — COMMENTED** [review]
I think this looks good.

Can you also add a simp lemma for `spectralRadius 𝕜 (a : Unitization 𝕜 A) = spectralRadius 𝕜 a` since I think that's missing and it's straightforward?

Another thing is for `quasispectrum_zero`, maybe it should be called `quasispectrum.zero_eq` to match `spectrum.zero_eq`?
Or actually maybe `spectrum.zero_eq` should be renamed to match this?

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean [hunk 4]
```diff
@@ -268,6 +268,19 @@ instance quasispectrum.instZero [Nontrivial R] (a : A) : Zero (quasispectrum R a
 
 variable {R}
 
+@[simp]
+lemma quasispectrum_zero {R A : Type*} [Field R] [NonUnitalRing A] [Module R A] :
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]:
```suggestion
lemma quasispectrum.zero_eq {R A : Type*} [Field R] [NonUnitalRing A] [Module R A] :
```
to match [spectrum.zero_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Spectrum/Basic.html#spectrum.zero_eq)

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean [hunk 5]
```diff
@@ -268,6 +268,19 @@ instance quasispectrum.instZero [Nontrivial R] (a : A) : Zero (quasispectrum R a
...
+    quasispectrum R (0 : A) = {0} := by
+  refine Set.eq_singleton_iff_unique_mem.mpr ⟨quasispectrum.zero_mem R 0, fun r hr => ?_⟩
+  by_contra h
+  exact hr (isUnit_iff_ne_zero.mpr h) (by simp only [smul_zero, neg_zero]; exact ⟨1, rfl⟩)
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]: If you fix [isQuasiregular_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.html#isQuasiregular_zero) (which is currently specific to `Nat`) you can do
```suggestion
  simp [quasispectrum]
```

Comment (ADedecker) [reply Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]: Likewise, could you change the proof of `spectrum.zero_eq` to the following:
```lean
@[simp]
theorem zero_eq [Nontrivial A] : σ (0 : A) = {0} := by
  ext
  simp [spectrum, mem_resolventSet_iff]
```

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 6]
```diff
@@ -604,32 +690,43 @@ lemma Subalgebra.spectrum_eq_of_isPreconnected_compl (h : IsPreconnected (σ 
...
-
 /-- If `𝕜₁` is a normed field contained as subfield of a larger normed field `𝕜₂`, and if `a : A`
-is an element whose `𝕜₂` spectrum restricts to `𝕜₁`, then the spectral radii over each scalar
-field coincide. -/
-lemma spectralRadius_eq {𝕜₁ 𝕜₂ A : Type*} [NormedField 𝕜₁] [NormedField 𝕜₂]
-    [NormedRing A] [NormedAlgebra 𝕜₁ A] [NormedAlgebra 𝕜₂ A] [NormedAlgebra 𝕜₁ 𝕜₂]
-    [IsScalarTower 𝕜₁ 𝕜₂ A] {f : 𝕜₂ → 𝕜₁} {a : A} (h : SpectrumRestricts a f) :
+is an element (in a possibly non-unital `𝕜₂`-algebra) whose `𝕜₂` quasispectrum restricts to `𝕜₁`,
+then the spectral radii over each scalar field coincide. -/
+lemma _root_.QuasispectrumRestricts.spectralRadius_eq {𝕜₁ 𝕜₂ A : Type*} [NormedField 𝕜₁]
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]:
```suggestion
lemma QuasispectrumRestricts.spectralRadius_eq {𝕜₁ 𝕜₂ A : Type*} [NormedField 𝕜₁]
```

File: Mathlib/Analysis/CStarAlgebra/Spectrum.lean [hunk 7]
```diff
@@ -278,7 +278,7 @@ lemma nnnorm_apply_le (φ : F) (a : A) : ‖φ a‖₊ ≤ ‖a‖₊ := by
     suffices this : spectralRadius ℂ (ψ s) ≤ spectralRadius ℂ s by
       rwa [(hs.map ψ).spectralRadius_eq_nnnorm, hs.spectralRadius_eq_nnnorm, coe_le_coe]
         at this
-    exact iSup_le_iSup_of_subset (AlgHom.spectrum_apply_subset ψ s)
+    exact iSup_le_iSup_of_subset (NonUnitalAlgHom.quasispectrum_apply_subset ψ s)
```
Comment (ADedecker) [inline Mathlib/Analysis/CStarAlgebra/Spectrum.lean:281]: Question about this proof. It seems to me that eventually you could get rid of passing to the unitization here by generalizing `spectralRadius_eq_nnnorm` to non-unital C*-algebras (which you would prove by passing to the unitization there of course). Is this true? Do you have plans to do this?

File: Mathlib/Analysis/CStarAlgebra/Hom.lean [hunk 8]
```diff
@@ -68,7 +68,7 @@ lemma norm_map (φ : F) (hφ : Function.Injective φ) (a : A) : ‖φ a‖ = ‖
   calc ‖ψ (star a * a)‖ = (spectralRadius ℝ (ψ (star a * a))).toReal :=
       ha.map ψ |>.toReal_spectralRadius_eq_norm.symm
     _ = (spectralRadius ℝ (star a * a)).toReal := by
-      simp only [spectralRadius, ha.map_spectrum_real ψ hψ]
+      simp only [spectrum.spectralRadius_eq_of_unital, ha.map_spectrum_real ψ hψ]
     _ = ‖star a * a‖ := ha.toReal_spectralRadius_eq_norm
```
Comment (ADedecker) [inline Mathlib/Analysis/CStarAlgebra/Hom.lean:72]: Same remark for this proof, it seems like you could entirely avoid going through the unitizaton, but I could be missing something obvious.

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 9]
```diff
@@ -81,21 +112,31 @@ theorem SpectralRadius.of_subsingleton [Subsingleton A] (a : A) :
...
+
+lemma spectralRadius_eq_of_unital (a : A) :
+    spectralRadius 𝕜 a = ⨆ k ∈ spectrum 𝕜 a, (‖k‖₊ : ℝ≥0∞) := by
+  simp [spectralRadius, quasispectrum_eq_spectrum_union_zero, iSup_or, iSup_sup_eq]
+
 @[simp]
 theorem spectralRadius_one [Nontrivial A] :
     spectralRadius 𝕜 (1 : A) = 1 := by
-  simp [spectralRadius]
+  simp [spectralRadius_eq_of_unital]
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: I'm quite surprised about all this `spectralRadius` lemmas being in the `spectrum` namespace, and I would argue it's even worse now that they are about the `quasispectrum`. Since the definition `spectralRadius` is in the root namespace, I would suggest the same here (and for a few lemmas around as well).

Comment (ADedecker) [reply Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: If you agree, you could take care of the existing lemmas in another PR.

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 10]
```diff
@@ -403,6 +420,75 @@ end ExpMapping
 
 end spectrum
 
+namespace quasispectrum
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: I was going to say why put this so low, but the whole organization of this file is a bit of a mess imo so let's not worry too much about it for now.

**Review by ADedecker — APPROVED** [review]
Sorry for the delay, and thanks for doing this!

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean (hunk 4 above)
Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]: or maybe that should be renamed to match this

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean (hunk 9 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: I agree. I think this bad naming stems from my ~5th PR to Mathlib, and it wasn't caught in review, and it's never been fixed/noticed. I have pulled the ones out of the `quasispectrum` namespace, and I will do the pre-existing ones in a follow-up.

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: I've made it a `private` lemma for this file, because passing to the `WithLp 1` version of the unitization is somewhat specific.

File: Mathlib/Analysis/CStarAlgebra/Spectrum.lean (hunk 7 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/Spectrum.lean:281]: We *could* do that of course (and just to prove it, I did that [here](https://github.com/j-loreaux/mathlib4/commit/03110357758c0498ce62002ed6a6e0cbf218d64d)), but the morally correct thing to do is to prove Gelfand's formula for non-unital algebras (which would mean we don't even need to pass to the unitization in `spectralRadius_eq_nnnorm` either). We *technically* could do that anytime after this PR is in, but the statement would be gross because, you guessed it, *we don't have `ℕ+` powers in semigroups yet* 🤦. So, this is yet another example where that is holding up actual mathematics. (Note: Yakov resurrected my PR for this, or rather created a new one from it, but he is busy with personal matters currently and should return next month.)

**Comment by j-loreaux** [comment]
@ADedecker, I think I've addressed everything (modulo the build succeeding)

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 11]
```diff
@@ -81,21 +118,31 @@ theorem SpectralRadius.of_subsingleton [Subsingleton A] (a : A) :
...
-  nontriviality A
   simp [spectralRadius]
 
+end NonUnital
+
+section Unital
+
+variable [Ring A] [Algebra 𝕜 A]
+
+lemma spectralRadius_eq_of_unital (a : A) :
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]:
```suggestion
lemma _root_.spectralRadius_eq_of_unital (a : A) :
```
Since you said you'll do the same to pre-existing lemmas, let's do it for the one you're adding.

Comment (ADedecker) [reply Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: Or do you think this one is fine since it is actually about the spectrum?

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean [hunk 12]
```diff
@@ -266,7 +266,21 @@ theorem quasispectrum.nonempty [Nontrivial R] (a : A) : (quasispectrum R a).None
 instance quasispectrum.instZero [Nontrivial R] (a : A) : Zero (quasispectrum R a) where
   zero := ⟨0, quasispectrum.zero_mem R a⟩
 
+lemma quasispectrum.zero_eq_nonunits [Nontrivial R] :
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean]:
```suggestion
lemma quasispectrum.zero_eq_nonunits :
```

**Comment by ADedecker** [comment]
Thanks!

bors merge
